US04670043
A mixture of 2-(4-chloro-2-fluoro-5-isopropoxyphenyl)-1,2,4,5,6,7-hexahydro-3H-indazol-3-one (1 g) and phosphorus oxychloride (0.7 g) was heated under reflux heating for 6 hours. After cooling, the reaction mixture was dissolved in chloroform, washed with a 5% sodium hydroxide solution and water, dried and concentrated. The residue was purified by silica gel column chromatography to give 0.3 g of 3-chloro-2-(4-chloro-2-fluoro-5-isopropoxyphenyl)-4,5,6,7-tetrahydro-2H-indazole (Compound No. 2). nD26 1.5530.

reactant | 2-(4-chloro-2-fluoro-5-isopropoxyphenyl)-1,2,4,5,6,7-hexahydro-3H-indazol-3-one | 1 g | ClC1=CC(=C(C=C1OC(C)C)N1NC=2CCCCC2C1=O)F | C16H18ClFN2O2
reactant | phosphorus oxychloride | 0.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-chloro-2-(4-chloro-2-fluoro-5-isopropoxyphenyl)-4,5,6,7-tetrahydro-2H-indazole | 0.3 g | ClC=1N(N=C2CCCCC12)C1=C(C=C(C(=C1)OC(C)C)Cl)F | C16H17Cl2FN2O
